US05041448
A mixture of 1.9 parts of 1-(2-chloroethyl)-4-methoxybenzene, 5 parts of 7-[(4-fluorophenyl)methyl]-8-(4-piperidinylmethyl)-7H-purin-6-ol dihydrobromide, 4 parts of sodium carbonate and 45 parts of N,N-dimethylacetamide was stirred overnight at 70° C. After cooling, the reaction mixture was filtered over diatomaceous earth and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2.2 parts (46%) of 7-[(4-fluorophenyl)methyl]-8-[[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methyl]-7H-purin-6-ol; mp. 122.2° C. (compound 62).

reactant | 1-(2-chloroethyl)-4-methoxybenzene | ClCCC1=CC=C(C=C1)OC | C9H11ClO
reactant | 7-[(4-fluorophenyl)methyl]-8-(4-piperidinylmethyl)-7H-purin-6-ol dihydrobromide | Br.Br.FC1=CC=C(C=C1)CN1C(=NC2=NC=NC(=C12)O)CC1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 7-[(4-fluorophenyl)methyl]-8-[[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methyl]-7H-purin-6-ol | 46% | FC1=CC=C(C=C1)CN1C(=NC2=NC=NC(=C12)O)CC1CCN(CC1)CCC1=CC=C(C=C1)OC | C27H30FN5O2
